US07560481B2
4-(benzyloxy)butyl methanesulfonate
The 1-benzyloxy-1-butanol (Aldrich, 0.22 g, 1.2 mmol), triethylamine (0.56 mL, 4.1 mmol), and methanesulfonyl chloride (0.15 mL, 1.9 mmol) in 10 mL THF were processed as described in Example 1C to give the title compound that was used directly in the next reaction.

reactant | 1-benzyloxy-1-butanol | 1.2 mmol, 0.22 g | C(C1=CC=CC=C1)OC(CCC)O | C11H16O2
reactant | triethylamine | 4.1 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.9 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(benzyloxy)butyl methanesulfonate | CS(=O)(=O)OCCCCOCC1=CC=CC=C1 | C12H18O4S
